US06545017B1
N′-[3-(4-amino-2-ethoxymethyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-N-methyl-N-phenylurea
Using the method of Examples 94-105, N-methyl-N-phenylcarbamoyl chloride was reacted with 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 411.2513.

reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC | C14H23N5O
product | N′-[3-(4-amino-2-ethoxymethyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-N-methyl-N-phenylurea | NC1=NC(=C(C2=C1N=C(N2CCCNC(N(C2=CC=CC=C2)C)=O)COCC)C)C | C22H30N6O2
